US06005128
1.6 N normal butyl lithium 205 ml was dropwise added to a solution comprising 33 ml of ethynylbenzene and 300 ml of tetrahydrofuran (hereinafter abbreviated as THF) at 0° C. under nitrogen gas flow, and stirring was continued for 1.5 hour. Dichlorobis(diethylamino)silane 36.5 g and 672 mg of copper cyanide were added to the resulting solution, and stirring was continued at room temperatures for 20 minutes to carry out the reaction. Solid matters precipitated in the reaction liquid were removed by filtering, and then the filtrate was concentrated. Water was added to this concentrate to extract the product with ether. This ether extraction layer was washed with water and then dried on magnesium sulfate. An ether component of this liquid was distilled off, and then the residue was refined by distillation to obtain 52 g of bis(diethylamino)-bis(phenyethynyl)silane. The yield was 93%.

reactant | normal butyl lithium | 1.6 N, 205 ml | C(CCC)[Li]
reactant | ethynylbenzene | 33 ml | C(#C)C1=CC=CC=C1 | C8H6
reactant | Dichlorobis(diethylamino)silane | 36.5 g | Cl[Si](N(CC)CC)(N(CC)CC)Cl | C8H20Cl2N2Si
reactant | copper cyanide | 672 mg | [Cu](C#N)C#N
solvent | THF | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | bis(diethylamino)-bis(phenyethynyl)silane | 52 g, yield was 93% | C(C)N(CC)[Si](C#CC1=CC=CC=C1)(C#CC1=CC=CC=C1)N(CC)CC | C24H30N2Si
